US07737166B2
Ethyl 1-{4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}piperidine-4-carboxylate (I-162)
Ethyl 1-(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)piperidine-4-carboxylate (I-161) (0.27 g, 0.66 mmol) was dissolved in dimethyl sulfoxide (5 ml), then triethylamine (0.19 ml, 1.37 mmol) and (3S)-3-(dimethylamino)pyrrolidine (0.17 ml, 1.34 mmol) were added, followed by stirring in a sealed tube at an external temperature of about 150° C. for 4 hours.

reactant | Ethyl 1-(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)piperidine-4-carboxylate | 0.66 mmol, 0.27 g | C(#N)C1=C(C(=C(C2=C1N=C(O2)N2CCC(CC2)C(=O)OCC)F)C2=CC=CC=C2)C | C23H22FN3O3
reactant | triethylamine | 1.37 mmol, 0.19 ml | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 1.34 mmol, 0.17 ml | CN([C@@H]1CNCC1)C | C6H14N2
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
product | Ethyl 1-{4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}piperidine-4-carboxylate | C(#N)C1=C(C(=C(C2=C1N=C(O2)N2CCC(CC2)C(=O)OCC)N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C | C29H35N5O3
